US20010016570A1
A. 4Oxo-3-pyridin-2-ylmethyl-piperidine-1,3-dicarboxylic acid 1-tert-butyi ester 3-ethyl ester
To a solution of 4-oxo-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (10.34 g, 38.2 mmol) in DMF (40 mL) at about 0° C. was added picolyl chloride hydrochloride (5.7 g, 34.7 mmol), potassium carbonate (14.4 g, 104.1 mmol) and potassium iodide (5.76 g, 34.7 mmol). After stirring at about 0° C. for about 2 hours, the ice bath was removed and DABCO (973 mg, 8.68 mmol) was added. The reaction mixture was stirred for about 30 min. and poured into a mixture of water and IPE. The organic layer was separated and washed with saturated aqueous NaHCO3 and saturated aqueous NaCl, dried over Na2SO4 and concentrated in vacuo. The crude residue was crystallized from hexanes to give a white solid (8.19 g, yield 65%). 1H-NMR (CDCl3) δ 1.17 (t, 3H), 1.48 (s, 9H), 1.55 (s, 2H), 2.61 (m, 1H), 2.71 (m, 1H), 3.31-3.50 (m, 3H), 4.11 (d, 2H), 4.49 (d, 1H), 7.06 (brs, 1H), 7.17 (d, 1H), 7.54 (m, 1H), 8.40 (s, 1H).

reactant | 4-oxo-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 38.2 mmol, 10.34 g | C(C)OC(=O)C1CN(CCC1=O)C(=O)OC(C)(C)C | C13H21NO5
reactant | picolyl chloride hydrochloride | 34.7 mmol, 5.7 g | Cl.N1=C(C=CC=C1)CCl
reactant | potassium carbonate | 104.1 mmol, 14.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 34.7 mmol, 5.76 g | [I-].[K+]
reactant | DABCO | 8.68 mmol, 973 mg | C1CN2CCN1CC2 | C6H12N2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4Oxo-3-pyridin-2-ylmethyl-piperidine-1,3-dicarboxylic acid 1-tert-butyi ester 3-ethyl ester | 8.19 g, yield 65% | C(C)OC(=O)C1(CN(CCC1=O)C(=O)OC(C)(C)C)CC1=NC=CC=C1 | C19H26N2O5
